US06936612B2
4-[6-(8-Cyclopentyl-6-ethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.204 g, 0.39 mmol) prepared as in Example 4 was dissolved in 1:1 chloroform/methanol (16 ml) and purged with anhydrous hydrogen chloride gas. After stirring for 3.5 hours, addition of diethyl ether (8 ml) gave a solid precipitate. The solid was filtered, washed with diethyl ether and dried in vacuo yielding 0.180 g of 8-cyclopentyl-6-ethyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a yellow solid. MS (APCI); M++1: Calc'd, 420.52. Found, 420.2. Analyses for C34H29N7O.1.2H2O.2.1HCl. Calc'd: C, 53.36; H, 6.52; N, 18.93; Cl (ionic), 14.38; H2O, 4.17. Found: C, 53.25; H, 6.43; N, 18.80; Cl (ionic), 14.36; H2O, 3.87.

reactant | 4-[6-(8-Cyclopentyl-6-ethyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.39 mmol, 0.204 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)CC)=O)C2CCCC2 | C28H37N7O3
reactant | chloroform methanol | 16 ml | C(Cl)(Cl)Cl.CO
product | 8-cyclopentyl-6-ethyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.180 g | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)CC)=O | InChI=1S/C23H29N7O.ClH/c1-2-16-13-17-14-26-23(28-21(17)30(22(16)31)18-5-3-4-6-18)27-20-8-7-19(15-25-20)29-11-9-24-10-12-29;/h7-8,13-15,18,24H,2-6,9-12H2,1H3,(H,25,26,27,28);1H
